US06864396B2
A mixture of 20 grams of 3,10-dihexyl-7,14-dihydropentacene-5,12-dione and 200 mL of 2-methoxyethyl ether was stirred and flushed with nitrogen for 15 minutes. To this was added 13.4 grams of sodium borohydride, and stirring was continued at room temperature overnight. To the resulting mixture was added 126 mL of methanol over 1.25 hours. The temperature increased to 40° C. and was maintained at 40° C. during the addition by intermittent application of a cold water bath. When addition was complete stirring was continued at room temperature. After stirring for 2 hours at room temperature an additional 50 mL of 2-methoxyethyl ether was added. After stirring with methanol for a total of 3.5 hours, 300 mL of acetic acid was added, and the resulting mixture was heated to 60° C. for 1.5 hours. To the mixture was added 100 mL of concentrated hydrochloric acid and heating at 60° C. was continued for one hour. The mixture was cooled to room temperature and the resulting solid was collected by filtration and washed with 500 mL of water. The solid was washed with 500 mL of acetone and then 60 mL of tetrahydrofuran. The solid was washed with an additional one liter of acetone and dried to give 2,9-dihexylpentacene.

reactant | 3,10-dihexyl-7,14-dihydropentacene-5,12-dione | 20 grams | C(CCCCC)C=1C=CC=2CC3=CC=4C(C5=CC(=CC=C5CC4C=C3C(C2C1)=O)CCCCCC)=O | C34H38O2
solvent | 2-methoxyethyl ether | 200 mL | COCCOCCOC | C6H14O3
product | 2,9-dihexylpentacene | C(CCCCC)C1=CC2=CC3=CC4=CC5=CC=C(C=C5C=C4C=C3C=C2C=C1)CCCCCC | C34H38
